** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO_response_tb.sch
**.subckt LC_VCO_response_tb
V2 VCTRL GND 0.0
V1 VDD GND 1.2
I0 VDD Ibias 50u
x1 VDD OUTp OUTn Ibias VCTRL GND LC_VCO
**** begin user architecture code


.control
* ============================================================
*  VCO Tuning Curve Sweep  (Vctrl = 0.0 V to 1.2 V, 0.1 V step)
*  Output:  vco_tuning.csv   <-- read by plot_vco_tuning.py
*           tb_VCO.raw       <-- last step waveform for xschem viewer
*  Plot:    python3 plot_vco_tuning.py
* ============================================================

* --- Sweep parameters ---
let v_start = 0.0
let v_stop  = 1.2
let v_step  = 0.1
let v_c     = v_start

* --- CSV header: vctrl_V,freq_Hz ---
echo vctrl_V,freq_Hz > vco_tuning.csv

while v_c <= (v_stop + v_step * 0.01)

    * Set VCTRL to the current sweep point
    * (alter @element[param] = value  is the correct ngspice syntax)
    alter @V2[dc] = $&v_c

    * Run 200 ns transient — ~480 cycles at 2.4 GHz, enough to settle from 0V
    * uic: each step starts fresh (no carry-over state from previous Vctrl)
    tran 10p 200n uic

    * Measure 20 full cycles starting from the 30th rising edge crossing of VDD/2
    * RISE=30 skips the startup transient; 50-30=20 cycles gives accurate average
    * Threshold = VDD/2 = 0.6 V   (was wrongly 0.9 V before)
    * Node     = v(OUTp)          (was wrongly v(vco_out) before)
    meas tran t_rise30 WHEN v(OUTp)=0.6 RISE=30
    meas tran t_rise50 WHEN v(OUTp)=0.6 RISE=50

    let freq = 20 / (t_rise50 - t_rise30)

    * Append  vctrl_V,freq_Hz  row to CSV
    echo $&v_c,$&freq >> vco_tuning.csv

    let v_c = v_c + v_step
end

* Save the raw file from the last transient (Vctrl = 1.2 V) for xschem viewer
write tb_VCO.raw v(OUTp) v(OUTn) v(vctrl)
echo --- Tuning sweep complete ---
echo CSV written to vco_tuning.csv
echo Run: python3 plot_vco_tuning.py
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include ./IHP_4nH_Inductor.spice


.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:  LC_VCO.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sch
.subckt LC_VCO VDD OUTp OUTn Ibias VCTRL GND
*.opin OUTp
*.opin OUTn
*.iopin VCTRL
*.iopin Ibias
*.iopin GND
*.iopin VDD
XM6 net5 Vgs GND GND sg13_lv_nmos w=70.29u l=0.5u ng=20
XM4 net1 net4 VDD VDD sg13_lv_pmos w=34.52u l=0.13u ng=10
X5M3 net4 net1 VDD VDD sg13_lv_pmos w=34.52u l=0.13u ng=10
XM2 OUTp OUTn Vx GND sg13_lv_nmos w=25.11u l=0.13u ng=8
XM1 OUTn OUTp Vx GND sg13_lv_nmos w=25.11u l=0.13u ng=8
Vpmos_p net1 net3 0
.save i(vpmos_p)
Vnmos_p net3 OUTp 0
.save i(vnmos_p)
Vtail Vx net5 0
.save i(vtail)
XM5 Vgs Vgs GND GND sg13_lv_nmos w=17.95u l=0.5u ng=6
Vpmos_n net4 net2 0
.save i(vpmos_n)
Vnmos_n net2 OUTn 0
.save i(vnmos_n)
x1 net2 net3 ihp_4nh_inductor
XC1 net2 net3 GND cap_rfcmim w=22.15e-6 l=22.15e-6 wfeed=10.0e-6
XC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
Vbias Ibias Vgs 0
.save i(vbias)
.ends

.GLOBAL GND
.GLOBAL VCTRL
.GLOBAL VDD
.GLOBAL Ibias
.end
